US09079866B2
2-Bromo-N-(3-hydroxy-1,1-dimethylpropyl)benzenesulfonamide
To a 20 mL vial were added a stirbar, 3-amino-3-methylbutan-1-ol (428 mg, 4.15 mmol), ACN (5 mL), and DIPEA (2.0 mL, 12 mmol). The mixture was then treated with 2-bromobenzene-1-sulfonyl chloride (994 mg, 3.89 mmol) and stirred for 12.5 hours before concentrating to dryness and subjecting the residue to FCC to give the title compound. (676 mg, 54%). MS (ESI): mass calcd. for C11H16BrNO3S 321.00, m/z found 344.0 [M+Na]+; 1H NMR (600 MHz, CDCl3) δ 8.15 (dd, J=7.9, 1.7, 1H), 7.70 (dd, J=7.8, 1.2, 1H), 7.46-7.39 (m, 1H), 7.39-7.31 (m, 1H), 6.15 (s, 1H), 3.93-3.81 (m, 2H), 1.76 (t, J=6.0, 2H), 1.20 (s, 6H).

reactant | 3-amino-3-methylbutan-1-ol | 4.15 mmol, 428 mg | NC(CCO)(C)C | C5H13NO
reactant | DIPEA | 12 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromobenzene-1-sulfonyl chloride | 3.89 mmol, 994 mg | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | 2-Bromo-N-(3-hydroxy-1,1-dimethylpropyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC(CCO)(C)C | C11H16BrNO3S
